US07759369B2
(a). 6-[(5-chloro-2-hydroxyphenyl)methyl]-2-pyridinecarboxylic acid
A mixture of ethyl 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}-phenyl)methyl]-2-pyridinecarboxylate (453 mg), sodium thiomethoxide (370 mg) and dimethylformamide (5 ml) was stirred at 100° C. for 2.5 hours. After cooling water (30 ml) was added and the mixture extracted with ethyl acetate (2×25 ml). The aqueous layer was acidified with conc. hydrochloric acid and extracted with ethyl acetate (2×25 ml). The combined extracts were washed with water (10 ml), dried (MgSO4) and concentrated in vacuo. The residue was washed with water and recrystallised from ether to afford the title compound (208 mg, 76%) as a pale buff solid.

reactant | ethyl 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}-phenyl)methyl]-2-pyridinecarboxylate | 453 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)OCC)OCC1=C(C=C(C=C1)Cl)F | C22H18Cl2FNO3
reactant | sodium thiomethoxide | 370 mg | C[S-].[Na+]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 6-[(5-chloro-2-hydroxyphenyl)methyl]-2-pyridinecarboxylic acid | 208 mg, 76% | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)O)O | C13H10ClNO3
